US05024785
p-Hydroxybenzoic acid (69.06 grams, 0.50 mole), sodium ethoxide catalyst (0.155 gram, 0.225% wt. of the p-hydroxybenzoic acid used) and dimethylacetamide solvent (400 grams) are added to a reactor equipped with a reflux condenser and stirred under a nitrogen atmosphere at 80° C. p-Methoxyphenylisocyanate (78.30 grams, 0.525 mole) is added dropwise over a ten minute period with cooling of the reactor exterior to maintain the 80° C. reaction temperature. After an additional ten minutes at 80620 C., heating of the reactor commenced and a 160° C. temperature is achieved 25 minutes later. After three hours at the 160° C. reaction temperature, the reactor is cooled to 30° C. then the contents poured into two liters of deionized water. A precipitated white powder is recovered via filtration of the aqueous slurry then dissolved into one liter of boiling methanol. After cooling the methanol solution to 5° C., a first crop of white crystalline product is filtered off and dried at 90° C. under vacuum to a constant weight of 67.9 grams. The methanol solution is concentrated by rotary evaporation to a 300 milliliter volume then cooled to 5° C. until a second crop of white crystalline product appeared. After filtration, drying of the product to constant weight provided an additional 30.8 grams to give a total isolated yield of 81.2% of 4-hydroxy-4'-methoxybenzanilide.

reactant | p-Hydroxybenzoic acid | 0.50 mole, 69.06 grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | p-Methoxyphenylisocyanate | 0.525 mole, 78.30 grams | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | water | two liters | O | H2O
catalyst | sodium ethoxide | [O-]CC.[Na+]
solvent | dimethylacetamide | 400 grams | CC(=O)N(C)C | C4H9NO
product | 4-hydroxy-4'-methoxybenzanilide | yield of 81.2% | OC1=CC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C14H13NO3
